US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (6.3 g), 4-(3-indolyl)piperidine (4.5 g) and sodium bicarbonate (1.9 g) in a mixture cf dimethylformamide (100 cc) and tetrahydrofuran (100 cc). The mixture is heated for 5 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is maintained for 15 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling methyl ethyl ketone (60 cc), 2-{3-[4-(3-indolyl)piperidino]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2 g) is obtained, m.p. 162° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 6.3 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | 4-(3-indolyl)piperidine | 4.5 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | sodium bicarbonate | 1.9 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | 2-{3-[4-(3-indolyl)piperidino]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H27N3O2S
